US08258158B2
4-(4-Isopropyl-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (1.68 g) was dissolved in methylene chloride (50 ml), trifluoroacetic acid (2.75 g) was added at 0° C. and under an argon atmosphere and the mixture was stirred for 12 h at RT. Further trifluoroacetic acid (1.1 g) was added and stirring was continued for 1.5 h to complete the reaction. The reaction mixture was partitioned between methylene chloride and aqueous 1M NaOH, the layers were separated and the aqueous layer washed with 2M aqueous KHCO3 then dried over Na2SO4. The solvent was evaporated off, the residue was triturated with diethyl ether/heptane to give the desired piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide (1 g) as a white solid that was directly used in the next step.

reactant | 4-(4-Isopropyl-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.68 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=CC=C(C=C1)C(C)C)=O | C20H30N2O3
reactant | trifluoroacetic acid | 2.75 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 1.1 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide | 1 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCNCC1 | C15H22N2O
